US07585875B2
Synthesis of 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one
2-(3-(4-fluorophenyl)-2H-azirin-2-yl)-5-(trifluoromethyl)pyridine. To a solution of 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone oxime (4.00 g, 13.4 mmol) in dichloromethane was added triethylamine (7.5 ml, 53.6 mmol, dist. from CaH2). The solution was cooled to 0° C. under argon and trifluoroacetic anhydride (2.2 ml, 16.2 mmol) was added dropwise. The reaction was stirred for 30 minutes and then quenched with water (100 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated to afford an oil. Purification by flash chromatography (15% EtOAc-hexane) yielded 3.08 g (82%) of the title compound, which crystallized on standing.

reactant | 2-(3-(4-fluorophenyl)-2H-azirin-2-yl)-5-(trifluoromethyl)pyridine | FC1=CC=C(C=C1)C=1C(N1)C1=NC=C(C=C1)C(F)(F)F | C14H8F4N2
reactant | 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone oxime | 13.4 mmol, 4.00 g | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10F4N2O
reactant | triethylamine | 53.6 mmol, 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 16.2 mmol, 2.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 3.08 g, 82% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C(C)C)=O | C18H14F4N2O
